US06630495B1
N-(α-Allylthio-2-chlorobenzylidene)-(3-chloro-5-trifluoromethyl-2-pyridyl)methylamine
To a mixture of sodium hydride (0.33 g) in tetrahydrofuran (10 ml) was added N-[(3-chloro-5-trifluoromethyl-2-pyridyl)methyl]-2-chlorobenzenethioamide (for preparation see PCT/GB/99/00304) (3.07 g) in tetrahydrofuran (50 ml) dropwise with stirring for 20 minutes until effervescence had ceased. Allyl bromide (0.09 g) in tetrahydrofuran (5 ml) was added to the reaction mixture, and the solution was stirred overnight at room temperature. The mixture was evaporated to dryness and the residue partitioned between dichloromethane (10 ml), water (5 ml) and brine (5 ml). The organic phase was separated and the solvent and any residual water evaporated in vacuo. The residue was purified by silica gel chromatography, gradient eluting with light petroleum (b.p. 60-80° C.)/diethyl ether to give the title product.

reactant | sodium hydride | 0.33 g | [H-].[Na+]
reactant | N-[(3-chloro-5-trifluoromethyl-2-pyridyl)methyl]-2-chlorobenzenethioamide | 3.07 g | ClC=1C(=NC=C(C1)C(F)(F)F)CNC(=S)C1=C(C=CC=C1)Cl | C14H9Cl2F3N2S
reactant | Allyl bromide | 0.09 g | C(C=C)Br | C3H5Br
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-(α-Allylthio-2-chlorobenzylidene)-(3-chloro-5-trifluoromethyl-2-pyridyl)methylamine | C(C=C)SC(C1=C(C=CC=C1)Cl)=NCC1=NC=C(C=C1Cl)C(F)(F)F | C17H13Cl2F3N2S
